US05663297
A solution, cooled to -20° C., of 32.3 g of Boc-Asp-(OBzl)-OH in 150 ml of DMF is treated with 11 ml of N-methylmorpholine and 13.07 ml of isobutyl chloroformate. The suspension obtained is stirred at -15° C. and treated with a suspension, cooled to -20° C., of 37.95 g of H-Val-OBzl.tosylate and 11 ml of N-methylmorpholine in 150 ml of DMF. The reaction mixture is stirred at below -10° C. for 10 minutes and at room temperature for 2 hours, filtered and the filtrate is concentrated. The residue is dissolved in ethyl acetate and washed with 5% KHSO4 /10% K2SO4 solution, water, saturated NaHCO3 solution, water and saturated NaCl solution and dried. The organic phase is concentrated. 52.9 g of Boc-Asp(OBzl)-Val-OBzl are obtained. 10.24 g thereof are dissolved in 30 ml of TFA and then concentrated. The residue, is crystallized from ethyl acetate/hexane. There are obtained 8.3 g of H-Asp- (OBzl)-Val-OBzl.TFA (1:1),.m.p. 147°-148° C.

reactant | Boc-Asp-(OBzl)-OH | 32.3 g | CC(C)(C)OC(=O)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)O | C16H21NO6
reactant | N-methylmorpholine | 11 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 13.07 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Val-OBzl | 37.95 g | N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C12H17NO2
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | N-methylmorpholine | 11 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Boc-Asp(OBzl)-Val-OBzl | 52.9 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H36N2O7
